US08217045B2
Step 1.3: 6[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-N-[3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl]-1-naphthalenecarboxamide
Under an argon atmosphere, a stirred solution of 3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)benzenamine (0.99 g, 4.1 mmol) in dry toluene (40 mL) is treated with a solution of AlMe3 (5 mL of 2 M in toluene; 10 mmol) at 40° C. After 45 min, a solution of 6[[(1,1-dimethylethyl)diphenylsilyl]oxy]-1-naphthalenecarboxylic acid, methyl ester (1.64 g, 3.72 mmol) in dry toluene (15 mL) is added and the stirred mixture is heated at 100° C. for 90 min. The cooled mixture is then added to a saturated aqueous solution of NH4Cl and stirred for 30 min. The organic phase is separated, washed with brine, dried (Na2SO4) and solvent is evaporated off under reduced pressure to give a residue, which is purified by column chromatography (SiO2; hexane/ethyl acetate 1:1) to afford the title compound as a beige solid.

reactant | 3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)benzenamine | 4.1 mmol, 0.99 g | CC=1N=CN(C1)C=1C=C(C=C(C1)C(F)(F)F)N | C11H10F3N3
reactant | AlMe3 | 10 mmol, 2 M, 5 mL | C[Al](C)C
reactant | 6[[(1,1-dimethylethyl)diphenylsilyl]oxy]-1-naphthalenecarboxylic acid, methyl ester | 3.72 mmol, 1.64 g | CC(C)(C)[Si](OC=1C=C2C=CC=C(C2=CC1)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28O3Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 6[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-N-[3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl]-1-naphthalenecarboxamide | CC(C)(C)[Si](OC=1C=C2C=CC=C(C2=CC1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)N1C=NC(=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H34F3N3O2Si
